US07176310B1
11. 2-[5-(4-Chlorophenyl)-2-methylfuran-3-ylmethoxy]-pyrimidine-5-carboxylic acid (4-fluorophenyl)amide
To a solution of 2-methanesulfinylpyrimidine-5-carboxylic acid (4-fluorophenyl)amide (60 mg, 0.215 mmol) in THF (1 mL) was added [2-(4-chlorophenyl)-5-methylfuran-3-yl]methanol (96 mg, 0.43 mmol) followed by DBU (65 μL, 0.43 mmol). The reaction was stirred for 1 h, diluted with 50% dichloromethane/hexane, and passed through a plug of SiO2 washing with 30% ethyl acetate/hexane. The filtrate was concentrated in vacuo, and the resulting solids were triturated with 20% ethyl acetate/hexane to afford 44.5 mg (47% yield) of the titled product as a white solid. ESI-MS m/z 438 (MH+) and 440 (M+2)H+, 436 (M−H)− and 438 ((M+2)−H)−.

reactant | 2-methanesulfinylpyrimidine-5-carboxylic acid (4-fluorophenyl)amide | 0.215 mmol, 60 mg | FC1=CC=C(C=C1)NC(=O)C=1C=NC(=NC1)S(=O)C | C12H10FN3O2S
reactant | [2-(4-chlorophenyl)-5-methylfuran-3-yl]methanol | 0.43 mmol, 96 mg | ClC1=CC=C(C=C1)C=1OC(=CC1CO)C | C12H11ClO2
reactant | DBU | 0.43 mmol, 65 μL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | dichloromethane hexane | ClCCl.CCCCCC
product | 2-[5-(4-Chlorophenyl)-2-methylfuran-3-ylmethoxy]-pyrimidine-5-carboxylic acid (4-fluorophenyl)amide | 44.5 mg, 47% yield | FC1=CC=C(C=C1)NC(=O)C=1C=NC(=NC1)OCC1=C(OC(=C1)C1=CC=C(C=C1)Cl)C | C23H17ClFN3O3
